US06004977
5-Fluoro-2-(pyridin-4-ylamino)-1,2,3,4 -tetrahydroisoquinolin-8-ol hydrobromide
To a solution of (5-fluoro-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-pyridin-4-yl-amine (4.82 g) and dichloromethane (100 ml) at -78° C., boron tribromide (5.5 ml) was added, with stirring. The reaction mixture was warmed to ambient temperature, stirred for 3 hrs, and methanol (100 ml) was added. The mixture was stirred for 1 hr and concentrated in vacuo. The residue was recrystallized from 2-propanol to yield 4.45 g (74%) of product, mp 266° C.

reactant | (5-fluoro-8-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-pyridin-4-yl-amine | 4.82 g | FC1=C2CCN(CC2=C(C=C1)OC)NC1=CC=NC=C1 | C15H16FN3O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 5.5 ml | B(Br)(Br)Br | BBr3
solvent | methanol | 100 ml | CO | CH4O
product | 5-Fluoro-2-(pyridin-4-ylamino)-1,2,3,4 -tetrahydroisoquinolin-8-ol hydrobromide | 4.45 g, 74% | Br.FC1=C2CCN(CC2=C(C=C1)O)NC1=CC=NC=C1 | InChI=1S/C14H14FN3O.BrH/c15-13-1-2-14(19)12-9-18(8-5-11(12)13)17-10-3-6-16-7-4-10;/h1-4,6-7,19H,5,8-9H2,(H,16,17);1H
